US06288041B1
Synthetic Example BB5: Synthesis of 3α-N-(N-tert-butyloxycarbonyl-O-benzyl-L-tyrosyl)aminocholestane
By using N-tert-butyloxycarbonyl-O-benzyl-L-tyrosine (500 mg, 2.03 mmol) and 3α-aminocholestane (866 mg, 2.23 mmol), the title compound was obtained in the same manner as in Synthetic Example BB1 (1.13 g, yield; 83.5%).

reactant | N-tert-butyloxycarbonyl-O-benzyl-L-tyrosine | 2.03 mmol, 500 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | 3α-aminocholestane | 2.23 mmol, 866 mg | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
product | 3α-N-(N-tert-butyloxycarbonyl-O-benzyl-L-tyrosyl)aminocholestane | yield; 83.5% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C48H72N2O4
